US04252963
When operating as described in Example 53, using instead of N'-methyl-N-phenylthiourea an equimolar amount of N'-ethyl-N-phenylthiourea, 2-ethylamino-benzthiazole melting at 93° C. is obtained in a yield of 94.4% of the theory and with an equally good purity.

reactant | N'-methyl-N-phenylthiourea | CNC(NC1=CC=CC=C1)=S | C8H10N2S
reactant | N'-ethyl-N-phenylthiourea | C(C)NC(NC1=CC=CC=C1)=S | C9H12N2S
product | 2-ethylamino-benzthiazole | yield of 94.4% | C(C)NC=1SC2=C(N1)C=CC=C2 | C9H10N2S
